US04051319
By utilizing the procedure of Example 19, by reacting p-hydroxybenzoic acid methyl ester with 2-bromo-6-methyl heptane, there is obtained p-[(1,5,-dimethylhexyl)oxy]benzoic acid methyl ester; B.P. 132°-134° C/.1 mmHg.

reactant | p-hydroxybenzoic acid methyl ester | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 2-bromo-6-methyl heptane | BrC(C)CCCC(C)C | C8H17Br
product | p-[(1,5,-dimethylhexyl)oxy]benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC(CCCC(C)C)C)=O | C16H24O3
